US04041071
Trans m-bromocinnamic acid (11.4 g) in dry benzene (75 ml) was heated to reflux and then a mixture of thionyl chloride (12 g) in dry benzene (50 ml) was added at such a rate as to maintain constant reflux. The reaction mixture was heated at reflux for an additional 2 hr. after the addition of thionyl chloride. The solvent and excess thionyl chloride were then removed under reduced pressure to give trans 3-bromocinnamoyl chloride (ca. 12.3 g). A solution of the 3-bromocinnamoyl chloride in toluene (150 ml) was added dropwise with stirring to a solution of isopropylamine (10 g) in ether (200 ml). The reaction mixture was stirred at room temperature for 1 hour and then heated at reflux for 1 hour. The solvent and excess amine were removed under reduced pressure. The crude residue was triturated with water, filtered, and recrystallized from ethanol-water to give white, crystalline trans 3-bromo-N-isopropylcinnamamide, m.p. 85°-86° C. Elemental analysis, NMR and IR spectra all confirmed the identity of the product.

reactant | Trans m-bromocinnamic acid | 11.4 g | BrC=1C=C(/C=C/C(=O)O)C=CC1 | C9H7BrO2
reactant | thionyl chloride | 12 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | trans 3-bromocinnamoyl chloride | ca. 12.3 g | BrC=1C=C(/C=C/C(=O)Cl)C=CC1 | C9H6BrClO
